US04482731
14 g of trans-3-(1,2,2-trichloro-2-(4-chloro-phenyl)-ethyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid were dissolved in 100 ml of carbon tetrachloride, 75 g of thionyl chloride were added and the mixture was heated under reflux for 4 hours. The solvent and excess thionyl chloride were then stripped off in vacuo. 13.7 g of trans-3-(1,2,2-trichloro-2-(4-chloro-phenyl)-ethyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid chloride were obtained as a viscous oil.

reactant | trans-3-(1,2,2-trichloro-2-(4-chloro-phenyl)-ethyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid | 14 g | ClC(C(C1=CC=C(C=C1)Cl)(Cl)Cl)[C@@H]1C([C@H]1C(=O)O)(C)C | C14H14Cl4O2
reactant | thionyl chloride | 75 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | trans-3-(1,2,2-trichloro-2-(4-chloro-phenyl)-ethyl)-2,2-dimethyl-cyclopropane-1-carboxylic acid chloride | 13.7 g | ClC(C(C1=CC=C(C=C1)Cl)(Cl)Cl)[C@@H]1C([C@H]1C(=O)Cl)(C)C | C14H13Cl5O
